US08084478B2
i) Ethyl cis-4-(4-nitrophenoxy)cyclohexanecarboxylate
Sodium hydride (60% dispersion in mineral oil, 4.39 g, 109.7 mmol) was added in portions over 1 min to a stirred solution of ethyl 4-hydroxycyclohexanecarboxylate (18 g, 104.5 mmol) and 1-fluoro-4-nitrobenzene (11.1 mL, 109.7 mmol) in DMF (200 mL) at 0° C. under a nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 5 mins and then warmed to ambient temperature and stirred for 2 h. Water (750 mL) and EtOAc (300 mL) were then added and the layers were separated. The aqueous layer was extracted with EtOAc (2×300 mL) and the combined organic layers were washed with brine (100 mL), dried (MgSO4) and concentrated in vacuo to leave a residue. The crude residue was purified by column chromatography, using a gradient of 10-40% EtOAc in isohexane as eluent, to give the title compound as a yellow oil (6.95 g, 23.7 mmol, 23%).

reactant | Sodium hydride | 109.7 mmol, 4.39 g | [H-].[Na+]
reactant | ethyl 4-hydroxycyclohexanecarboxylate | 104.5 mmol, 18 g | OC1CCC(CC1)C(=O)OCC | C9H16O3
reactant | 1-fluoro-4-nitrobenzene | 109.7 mmol, 11.1 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Water | 750 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | Ethyl cis-4-(4-nitrophenoxy)cyclohexanecarboxylate | 23.7 mmol, 6.95 g, 23% | [N+](=O)([O-])C1=CC=C(O[C@H]2CC[C@H](CC2)C(=O)OCC)C=C1 | C15H19NO5
